US07060697B2
To a solution of 2-(4-methylsulfanyl-phenyl)-[1,3]dioxane (2 g, 9.5 mmol) in DCM (50 mL) at 0° C. is added m-CPBA (2.46 g, 10.5 mmol). The mixture is stirred at 0° C. for 1 h after which Ca(OH)2 (770 mg, 10.5 mmol.) is added. The reaction is stirred an additional 30 min, then the reaction mixture is diluted with DCM and filtered through celite. The filtrate is collected and concentrated to give 2-(4-methanesulfinyl-phenyl)-[1,3]dioxane as a white solid.

reactant | 2-(4-methylsulfanyl-phenyl)-[1,3]dioxane | 9.5 mmol, 2 g | CSC1=CC=C(C=C1)C1OCCCO1 | C11H14O2S
reactant | m-CPBA | 10.5 mmol, 2.46 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-methanesulfinyl-phenyl)-[1,3]dioxane | CS(=O)C1=CC=C(C=C1)C1OCCCO1 | C11H14O3S
